US07538246B2
Synthesis of (R)-N-(trifluoroacetyl)-α-amino-4′-methoxypropiophenone
To the mixture of N-(trifluoroacetyl)-D-alanine (10.00 g; 0.054 mol) and pyridine (100 μl) in CH2Cl2 (100 ml), thionyl chloride (4.1 ml; 0.057 mol) is added dropwise at room temperature and then stirred for 7 hours at 45° C. Anisole (7.0 ml; 0.065 mol) is added and the solution is cooled on an ice-bath. AlCl3 (7.92 g; 0.059 mol) is added in portions and stirred at room temperature for 36 hours. The reaction is terminated with the addition of cold 1M HCl (150 ml) and ice (100 ml). The organic phase is washed with 1M HCl (2×100 ml), water (2×100 ml), saturated NaHCO3 solution (2×100 ml), dried over anhydrous sodium sulphate and concentrated. Heptane (35 ml) is added to the residue while stirring. The formed para-product is filtered off and washed with heptane (2×25 ml). White needle-like crystals are obtained: 4.80 g (32,3% yield); >99% e.e.; [α]57923−40.4; [α]54623−47.0 (c 1.0; MeOH), ortho-product assay 1-2%, melting point 110-114° C., 1H-NMR (CDCl3): 1.52 (d, 3H, CH3; J=7.2 Hz); 3.91 (s, 3H, MeO); 5.47 (m, 1H, CH); 7.00 (m, 2H, H-2.6); 7.64 (broad s, 1H, NHCOCF3); 7.97 (m, 2H, H-3.5).

reactant | N-(trifluoroacetyl)-D-alanine | 0.054 mol, 10.00 g | FC(C(=O)N[C@H](C)C(=O)O)(F)F | C5H6F3NO3
reactant | thionyl chloride | 0.057 mol, 4.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | Anisole | 0.065 mol, 7.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | AlCl3 | 0.059 mol, 7.92 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | pyridine | 100 μl | N1=CC=CC=C1 | C5H5N
product | (R)-N-(trifluoroacetyl)-α-amino-4′-methoxypropiophenone | 32,3% yield | FC(C(=O)N[C@@H](C(=O)C1=CC=C(C=C1)OC)C)(F)F | C12H12F3NO3
